US07608639B2
3-[4-(3-Hydroxy-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester
A mixture of 3-[4-(3-benzyloxy-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester (10.54 g, 28.0 mmol) and 10% Pd/C (5 g) in ethyl acetate (150 mL) is purged with N2 and then H2. The mixture is stirred under a hydrogen balloon. Upon completion, the mixture is filtered through hyflo, and the solvent is removed in vacuo to afford 8.18 g (100%) of the titled compound. Rf=0.59 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C17H18O4 286, found 287 (M+1, 100%).

reactant | 3-[4-(3-benzyloxy-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 28.0 mmol, 10.54 g | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OCC1=CC=CC=C1)C)=O | C24H24O4
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 3-[4-(3-Hydroxy-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 8.18 g, 100% | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)O)C)=O | C17H18O4
